US06156761
Step 1: Ethyl 2-cyano-3,3-dimethyl-4-(3-methoxyphenyl)butanoate
A solution of ethyl 2-cyano-3-methylcrotonate (10.8 g, 0.07 mol) in THF (100 mL) was added dropwise to a stirred ethereal solution of 3-methoxybenzylmagnesium chloride (prepared by adding a solution of 3-methoxybenzyl chloride (9.3 mL, 0.064 mol) in ether (48 mL) to a slurry of Mg (1.7 g, 0.07 mol) in ether (20 mL)). After addition the mixture was stirred at room temperature for a further 2 h then NH4Cl (sat., 50 mL) was added. The solution was partitioned between EtOAc (200 mL) and water (200 mL) and the organic layer separated and dried (MgSO4). The solvent was evaporated and the residue chromatographed on silica gel, eluting with petrol:EtOAc (5:1). The title compound (9.0 g, 51%) was isolated as a colourless oil. 1H NMR (360 MHz, CDCl3) δ 1.10 (3H, s), 1.20 (3H, s), 1.33 (3H, t, J=7.1 Hz), 2.74 (1H, d, J=13.5 Hz), 2.78 (1H, d, J=13.5 Hz), 3.33 (1H, s), 3.81 (3H, s), 4.26 (2H, q, J=7.1 Hz), 6.72-6.82 (3H, m), 7.22 (1H, t, J=7.8 Hz). MS (ES+) 276 (M+1).

reactant | ethyl 2-cyano-3-methylcrotonate | 0.07 mol, 10.8 g | C(#N)C(C(=O)OCC)=C(C)C | C8H11NO2
reactant | 3-methoxybenzylmagnesium chloride | COC=1C=C(C[Mg]Cl)C=CC1
reactant | 3-methoxybenzyl chloride | 0.064 mol, 9.3 mL | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | 48 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | Ethyl 2-cyano-3,3-dimethyl-4-(3-methoxyphenyl)butanoate | 9.0 g, 51% | C(#N)C(C(=O)OCC)C(CC1=CC(=CC=C1)OC)(C)C | C16H21NO3
